US07074817B2
{1-Benzyl-6-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid
A mixture of ethyl 2-[1-benzyl-6-(4-trifluoromethoxyphenyl)-1H-indol-3-yl]-2-oxoacetate (1.27 g, 2.72 mmol), potassium hydroxide (0.539 g, 9.61 mmol) in THF (12 mL) and water (12 mL) was stirred at room temperature for 3.5 hours. The mixture was poured into excess water, acidified with 2N hydrochloric acid, and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated to dryness. The residue was dried under vacuum at 92° C. for 15 hours to yield the title compound (0.985 g, 82%) as a yellow solid. A sample crystallized from isopropanol gave a solid, mp: 202-204° C. (dec.). Mass spectrum (+APCI, [M+H]+) m/z 440; 1HNMR (400 MHz, DMSO-d6): δ 13.8-14.2 (br s, 1H), 8.7 (s, 1H), 8.25 (d, 1H, J=8.3 Hz), 7.95 (t, 1H, J=0.73 Hz), 7.8-7.85 (m, 2H), 7.65 (dd, 1H, J=8.3 Hz and 1.5 Hz), 7.45 (d, 2H, J=8.8 Hz), 7.25-7.4 (m, 5H), and 5.65 ppm (s, 2H).

reactant | ethyl 2-[1-benzyl-6-(4-trifluoromethoxyphenyl)-1H-indol-3-yl]-2-oxoacetate | 2.72 mmol, 1.27 g | C(C1=CC=CC=C1)N1C=C(C2=CC=C(C=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO4
reactant | potassium hydroxide | 9.61 mmol, 0.539 g | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | 12 mL | O | H2O
product | {1-Benzyl-6-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid | 0.985 g, 82% | C(C1=CC=CC=C1)N1C=C(C2=CC=C(C=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)O)=O | C24H16F3NO4
